US04935437
The process described in Example 8 was repeated, using imidazole in place of 1,2,4-triazole, and 2,2'-[5-(1-chloroethyl)-1,3-phenylene]di(2-methylpropiononitrile), (obtained as described in the second part of Example 7), as the starting materials, to give 2,2'-[5-(1-[imidazol-1-yl]ethyl)-1,3-phenylene]di(2-methylpropiononitrile), mp. 77°-80°.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2,2'-[5-(1-chloroethyl)-1,3-phenylene]di(2-methylpropiononitrile) | ClC(C)C=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C16H19ClN2
product | 2,2'-[5-(1-[imidazol-1-yl]ethyl)-1,3-phenylene]di(2-methylpropiononitrile) | N1(C=NC=C1)C(C)C=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C19H22N4
